Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
sulfa / lisinopril / Bumex
 
Attending: ___.
 
Chief Complaint:
Leg swelling, weight gain
 
Major Surgical or Invasive Procedure:
___ Right heart catheterization
___ Tunneled dialysis line placement
___ Left kidney biopsy

 
History of Present Illness:
Mr. ___ is a ___ with CAD s/p RCA PCI (___), HFrEF (LVEF
25%), h/o CHB and recurrent VT s/p ICD (___), BPH, and severe
spinal stenosis who initially presented to ___ for leg
swelling and weight gain, subsequently transferred to ___ for
further management. 

Mr. ___ endorses 1mo of unintentional BLE swelling as well
as ~15 pound weight gain over the past month despite steadily
increasing dosages of Lasix from 60 mg/day up to his current 
dose
of 120 mg/day. He stated that the increased doses of Lasix were
not successful in decreasing his weight, and that his urine
output has actually declined. His belly, lower extremities and
scrotum are all swollen. He also endorsed some dyspnea on
exertion; however denied orthopnea, PND, chest pain, or recent
illnesses. He endorses strict medication and dietary compliance.
Per report, his baseline dry weight is ~147lbs and his baseline
Cr ~1.0.

In the ED initial vitals were: 97.6, 70, 134/68, 18, 99% RA  
Exam notable for: Comfortable-appearing, JVP ~10cm, +bibasilar
inspiratory crackles, no murmurs, 2+ pitting edema to thighs
bilaterally. 

Labs notable for: 
- CBC: WBC 4.3, Hgb 11.6, Plts 211 
- BMP: Na 133, BUN 65, Cr 1.4 
- LFTs: wnl
- Troponin: 0.06 (___) -> 0.05 (___)
- ProBNP: 34,321 
- U/A: Trace blood, 100 Protein, 3 RBC, 19 hyaline casts, Neg
___, 0 epi

Images notable for:  
- CXR at ___ prior to arrival Impression: Mild CHF on 
COPD,
slightly improved from 13 months ago. Small right pleural
effusion. Streaky linear atelectasis foci in the LLL, lower 
right
chest attending fissure.

 
Past Medical History:
- Hypertension  
- Dyslipidemia  
- Percutaneous coronary intervention to right coronary artery 
(___)
- Left ventricular systolic heart failure 
- ischemic cardiomyopathy
- Benign prostatic hypertrophy
- coronary artery disease
- complete heart block
- severe spinal stenosis
- presbycusis
 
Social History:
___
Family History:
Very strong family history of early MI and sudden cardiac death:
- Father: sudden cardiac death age ___
- 2 brothers: sudden cardiac death in their ___
- ___ younger brother: sudden cardiac death at age ___
- Nephews: several have had MI/death 
 
Physical Exam:
ADMISSION EXAM:
===============
VS: 24 HR Data (last updated ___ @ 1742)
    Temp: 97.6 (Tm 97.6), BP: 145/91, HR: 101, RR: 20, O2 sat:
97%, O2 delivery: RA, Wt: 161.3 lb/73.17 kg  
GENERAL: Well developed, well nourished, very pleasant and
talkative male in no acute distress 
HEENT: JVD just below ear lobe + HJR
CARDIAC: RRR, no murmurs. Palpable pacemaker at left upper 
chest.

LUNGS: inspiratory crackles along right base to mid lung field;
decreased breath sounds at left base
ABDOMEN: Softly distended, non tender
EXTREMITIES: wwp, ___ bilateral pitting edema to the thighs
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

DISCHARGE EXAM:
===============
GENERAL: Elderly man in NAD.
CV: JVP 12, RRR, no murmurs rubs or gallops 
LUNGS: Normal work of breathing. Left sided crackles and
diminished breath sounds in the right base.
ABDOMEN: Soft, NDNT
EXTREMITIES: warm, ___ pitting edema up to the knees.
NEURO: Fatigued but alert, oriented x4, intact attention.  No
focal deficits.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 06:50AM BLOOD WBC-3.8* RBC-3.17* Hgb-9.8* Hct-29.9* 
MCV-94 MCH-30.9 MCHC-32.8 RDW-13.4 RDWSD-46.3 Plt ___
___ 06:50AM BLOOD ___
___ 07:00AM BLOOD Ret Aut-0.9 Abs Ret-0.03
___ 03:55PM BLOOD Glucose-96 UreaN-63* Creat-1.4* Na-134* 
K-4.9 Cl-98 HCO3-25 AnGap-11
___ 06:50AM BLOOD Glucose-94 UreaN-66* Creat-1.6* Na-134* 
K-5.3 Cl-97 HCO3-26 AnGap-11
___ 03:55PM BLOOD cTropnT-0.05*
___ 03:55PM BLOOD Calcium-8.4 Phos-3.8 Mg-2.3 Cholest-188
___ 03:55PM BLOOD Ferritn-156
___ 03:55PM BLOOD %HbA1c-5.7 eAG-117
___ 03:55PM BLOOD TSH-2.8

PERTINENT LABS:
===============
___ 07:00AM BLOOD Ret Aut-0.9 Abs Ret-0.03
___ 07:00AM BLOOD calTIBC-239* Ferritn-176 TRF-184*
___ 07:05AM BLOOD Albumin-2.6* TotProt-5.3* 

DISCHARGE LABS:
===============
********************

IMAGING:
---------------
2D-ECHOCARDIOGRAM: 
1. ___ ___ Conclusion:
ventricular hypokinesis with a reduced ejection fraction of 25%
mildly thickened mitral and aortic valves mild to moderate 
mitral
regurgitation mild tricuspid regurgitation normal PA pressure 25
mmHg

Conclusion:
Left atrial enlargement left ventricular enlargement diffuse 
left
ventricular hypokinesis with a reduced ejection fraction of
around 25% thickening of the mitral and aortic valves with
moderate mitral regurgitation minimal aortic valve stenosis mild
tricuspid regurgitation with an elevated PA pressure of 38

___ CXR:
1. Slight interval increase in mild cardiomegaly, pulmonary 
vascular 
congestion, and small bilateral pleural effusions. 
2. Slightly increased opacities along the right heart border and 
in the 
retrocardiac region may represent atelectasis, however the 
possibility of 
infection cannot be excluded in the appropriate clinical 
setting. 

___ RENAL U/S:
1. Normal appearance of the kidneys.  No hydronephrosis. 
2. Diffusely hypertrophic bladder wall.  The prostate gland does 
not appear to be enlarged and is not visualized.  This may imply 
bladder neuropathy or outflow problem. 
3. Two echogenic avascular areas in the liver likely represent 
hemangiomas or focal fat. 
 
___ TTE
Left ventricular cavity dilation with regional and global 
systolic dysfunction most c/
w multivessel coronary artery disease or other diffuse process. 
Eccentric jet of moderate mitral regurgitation. Mild pulmonary 
artery systolic hypertension.

___ Right Heart Catheterization
Elevated left heart filling pressure.
- Preserved cardiac function.
- Mild pulmonary hypertension.
- Mild elevation in left-side filling pressures. Normal cardiac 
ouptut and index (on dobutamine).
- Mild pulmonary artery hypertension in the settting of elevated 
PCWP.

___ Kidney Biopsy
- pending result; prelim read showed no evidence of immunologic 
process or vasculitis

DISCHARGE LABS
=============
___ 09:00AM BLOOD WBC-7.1 RBC-2.93* Hgb-9.2* Hct-28.0* 
MCV-96 MCH-31.4 MCHC-32.9 RDW-14.3 RDWSD-50.3* Plt Ct-90*
___ 09:00AM BLOOD Glucose-65* UreaN-60* Creat-5.3* Na-137 
K-4.5 Cl-94* HCO3-27 AnGap-16
 
Brief Hospital Course:
SUMMARY:
====================
Mr. ___ is a ___ with CAD s/p RCA PCI (___), HFrEF (LVEF 
25%), h/o CHB and recurrent VT s/p ICD (___), BPH, and severe 
spinal stenosis who initially presented to ___ for leg 
swelling and a 15 lb weight gain, subsequently transferred to 
___ for further management. During his hospital course at 
___, it was initially thought that his ___ swelling and weight 
gain were due to HF and cardiorenal syndrome and therefore he 
was aggressively diuresed, briefly required a dobutamine gtt, 
and increased his pacer rate. However, given ongoing renal 
failure, renal was consulted and did a biopsy which is still 
pending at discharge, but overall his presentation was 
consistent with nephrotic syndrome as well as ATN in the setting 
of relative hypotension. Given acute renal failure, he started 
on HD and was discharged with plan to continue HD ___. 

TRANSITIONAL ISSUES
========================
Dry weight: 66 kg
Admission weight: 73.17 kg
Discharge weight: 65.6kg

[] Aspirin held until ___ following renal biopsy. 
[] Renal ultrasound showed a diffusely hypertrophic bladder wall 
which may imply bladder neuropathy or outflow problem. Recommend 
further follow up as outpatient. 
[] Final renal biopsy pathology pending at discharge
[] Patient noted to have slowly downtrending platelets of 
unclear etiology. Recommend repeat CBC at PCP ___. 
[] Elevated K/L ratio of 2.65. Recommend repeat testing in 6 
weeks, and if remains elevated recommend hematology referral. 

Medication changes:
[] Patient discharged on metoprolol XL 12.5mg daily. Continue to 
uptitrate if tolerated. 
[] Losartan discontinued to ___.
[] Hydralazine started for afterload reduction. Patient 
discharged on hydralazine 20mg Q8H.

ACTIVE ISSUES: 
============== 
# Acute on chronic HFrEF:
#Ischemic Cardiomyopathy
Patient noted to have worsening BLE edema and ~15 lb weight gain 
over the past month, despite remaining adherent to medications, 
fluid restriction, and dietary restrictions. 
Volume status complicated by HFrEF, Nephrotic Syndrome, ATN (ATN 
likely occurred early in hospital course during unexplained 
hypotensive episode.) Mr. ___ was initially hypervolemic 
and was aggressively diuresed and briefly required dobutamine 
however he became increasingly diuretic resistant despite 
significant lower extremity edema. RHC at that point with normal 
RA pressures (despite diffuse lower extremity edema) with an 
elevated wedge pressure. His nephrotic range proteinuria at 
outside hospital provides an explanation for his edema.

#ATN 
#Nephrotic Syndrome 
Baseline Cr ~1.0, slowly worsening since ___, with acute 
worsening since admission. Of note he has had rapid progression 
of proteinuria with no protein noted in urine ~6 months ago. 
Since ___ he has had significant increase in proteinuria 
with a nephrotic range 24hr proteinuria in ___ at ___. 
His nephrotic syndrome explains his lower extremity edema, 
hypoalbuminemia and diuretic resistance. His nephrotic syndrome 
was further complicated by ATN which may have been ___ to his 
hypotensive episode this admission (___). Nephrotic workup was 
notable for ___ titer 1:1280. He had a biopsy during admission 
that was still pending at discharge. During admission, he was 
initiated on HD, and discharged on HD ___. 

# CAD s/p RCA PCI:
Patient without chest pain. He was continued on his home 
aspirin. Except that this was held for the week following his 
renal biopsy. His rosuvastatin was increased from 5 mg every 
other day to 20mg once daily. His home metoprolol was held 
during active diuresis. 

# Poor appetite: Likely secondary to increased gut edema. 
Improved with diuresis.

# Anemia:
Hb ~ 10s, at or just below baseline. His anemia is normocytic. 
He is not iron deficient. TSH normal. UPEP negative. SPEP/UPEP 
and K:L ratio showed SPEP negative, Free Kappa 163.1, Free 
Lambda 64.0, K/L 2.5.

CHRONIC ISSUES:
======================
# CHB and recurrent VT s/p ICD
In ___ after TURP, had two pre-syncopal episodes and was 
subsequently found to be in CHB as well as with recurrent VT, 
felt to be secondary to scar from prior MI. ICD subsequently
placed. Recent interrogations wnl. He was maintained on 
telemetry and his electrolytes were closely monitored/repleted. 

# Severe spinal stenosis: ___ consulted.

# BPH: Continue home Tamsulosin 0.4 mg PO qd

Code status: full, presumed
Contact: ___, wife 
Phone number: ___ 
Cell phone: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Losartan Potassium 100 mg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Tamsulosin 0.4 mg PO QHS 
6. Rosuvastatin Calcium 5 mg PO EVERY OTHER DAY 
7. Furosemide 120 mg PO DAILY 

 
Discharge Medications:
1.  HydrALAZINE 20 mg PO Q8H 
RX *hydralazine 10 mg 2 tablet(s) by mouth every eight (8) hours 
Disp #*180 Tablet Refills:*0 
2.  sevelamer CARBONATE 800 mg PO TID W/MEALS 
RX *sevelamer carbonate 800 mg 1 tablet(s) by mouth three times 
daily with meals Disp #*90 Tablet Refills:*0 
3.  Metoprolol Succinate XL 12.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*0 
4.  Rosuvastatin Calcium 20 mg PO QPM 
RX *rosuvastatin 20 mg 1 tablet(s) by mouth daily every night 
Disp #*30 Tablet Refills:*0 
5.  Tamsulosin 0.4 mg PO QHS  
6. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
-----------------
Acute on chronic renal failure
Acute tubular necrosis
Nephrotic syndrome
Acute on chronic heart failure with reduced EF
Ischemic cardiomyopathy / coronary artery disease

SECONDARY:
-----------------
Normocytic anemia
Thrombocytopenia of unknown etiology
Status post ICD placement for complete heart block and recurrent 
ventricular tachycardia
Severe spinal stenosis
Benign prostatic hypertrophy 
Presbycusis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ 
because you were very swollen with extra fluid.

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL:
- We did tests and gave you treatments to try to improve your 
heart and kidney function
- You had a kidney biopsy and other tests that showed you have a 
serious kidney problem called "nephrotic syndrome"
- You needed to start dialysis because your kidneys weren't 
working.

WHEN YOU LEAVE THE HOSPITAL:
- We made changes to your medications. ___ below for an 
up-to-date list.
- Follow up with your doctors. ___ below for a list of 
appointments.

We wish you all the best with your health.

Sincerely,
The team at ___
 
Followup Instructions:
___